US07462624B2
Step D: 5,6-Diamino-1-pentylpyrimidine-2,4(1H,3H)-dione
To a mixture of 6-amino-5-nitroso-1-pentylpyrimidine-2,4(1H,3H)-dione (1.9 g, 8.3 mmol) and a solution of ammonia in water (20 M, 20 mL) at 70° C. was added sodium dithionite (3.1 g, 18 mmol) slowly. After stirring for 20 minutes, the reaction mixture was concentrated to a volume of about 10 mL and cooled in an ice bath. The greenish solid was collected by filtration and dried on high vacuum for 4 h to provide the desire product (1.5 g, 85% yield). LCMS calculated for C9H17N4O2(M+H): 213.1; found: 213.2.

reactant | 6-amino-5-nitroso-1-pentylpyrimidine-2,4(1H,3H)-dione | 8.3 mmol, 1.9 g | NC1=C(C(NC(N1CCCCC)=O)=O)N=O | C9H14N4O3
reactant | ammonia | N | H3N
reactant | sodium dithionite | 18 mmol, 3.1 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 20 M, 20 mL | O | H2O
product | 5,6-Diamino-1-pentylpyrimidine-2,4(1H,3H)-dione | 1.5 g, 85% yield | NC=1C(NC(N(C1N)CCCCC)=O)=O | C9H16N4O2
